US08383615B2
Synthesis of (S)-1-(4,4-Difluoro-cyclohexanecarbonyl)-azetidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide (Example 20)
To a solution of 4,4-difluorocyclohexanecarboxylic acid (74.5 mg; 0.454 mmol) and 1-hydroxybenzotriazole hydrate (102 mg; 0.756 mmol) in DMF (1.5 mL) is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (145 mg; 0.756 mmol). After 20 minutes of stirring, (S)-Azetidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide; hydrochloride (150 mg; 0.378 mmol) is added, followed by diisopropylethylamine (0.066 mL; 0.378 mmol) and 4-diemthylaminopyridine (3 mg; 0.025 mmol). The reaction mixture is stirred at room temperature for 1 hour. After this time, the reaction mixture is diluted with ethyl acetate and washed with water, saturated sodium bicarbonate aqueous solution and saturated ammonium chloride aqueous solution then brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography on silica gel using methanol/methylene chloride provides the title compound, m/z 370 [M+H+].

reactant | 4,4-difluorocyclohexanecarboxylic acid | 0.454 mmol, 74.5 mg | FC1(CCC(CC1)C(=O)O)F | C7H10F2O2
reactant | 1-hydroxybenzotriazole hydrate | 0.756 mmol, 102 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.756 mmol, 145 mg | Cl.CN(CCCN=C=NCC)C
reactant | (S)-Azetidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1NCC1 | C11H17N3O2
reactant | hydrochloride | 0.378 mmol, 150 mg | Cl | ClH
reactant | diisopropylethylamine | 0.378 mmol, 0.066 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(4,4-Difluoro-cyclohexanecarbonyl)-azetidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(CC1)C(=O)C1CCC(CC1)(F)F | C18H25F2N3O3
